* Z:\mnt\design.r\spice\examples\2058.asc
V1 +V 0 28
XU1 N002 N001 N005 0 N003 +V 0 LTC2058
D1 N003 OUT 1N4148
R1 N005 N004 10
Rsense N004 0 1m
Isense 0 N004 0
R2 N001 0 10
R5 OUT N001 1K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
* Low Side Current Sense Amplifier\nV(out) = 101*Rsense*Isense
.dc Isense 0 .1 10m
.lib LTC2.lib
.backanno
.end
